US07109197B2
{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-ylamino}-acetic acid
A mixture of (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (10.0 g, 0.03 mol) and glycine (4.8 g, 0.06 ml) in DBU (100 ml) is heated at 150° C. under an atmosphere of argon for 40 hours. The still hot reaction mixture is poured into water. After washing the aqueous phase with ethyl acetate the pH is adjusted to 5 by adding citric acid. The resulting precipiate is filtered and recrystallized from dimethylformamide/ethanol to give the product in form of yellow crystals, m.p. 136–138° C. (with decomposition).

reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.03 mol, 10.0 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | glycine | 0.06 ml, 4.8 g | NCC(=O)O | C2H5NO2
reactant | water | O | H2O
solvent | DBU | 100 ml | C1CCC2=NCCCN2CC1 | C9H16N2
product | {4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-ylamino}-acetic acid | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCC(=O)O | C17H14ClN5O2
